US07989449B2
(RS)-4-[3-(1,3-Benzodioxol-5-ylamino)-phenyl]-4-phenyl-4,5-dihydro-oxazol-2-ylamine
An oven dried pressure tube was charged with (RS)-4-(3-bromo-phenyl)-4-phenyl-4,5-dihydro-oxazol-2-ylamine (Building Block A, 100 mg, 0.315 mmol), sodium tert-butoxide (61 mg, 0.63 mmol), 2-di-t-butylphosphino-2′,4′,6′-tri-1-propyl-1,1′biphenyl (12 mg, 0.028 mmol), tris(dibenzylideneacetone)dipalladium (7 mg, 0.008 mmol) and 3,4-(methylendioxy)-aniline (86 mg, 0.631 mmol). After three vacuum-nitrogen cycles, toluene was introduced (0.7 mL), the tube was scaled and stirred at 100° C. for 16 hours. After cooling to room temperature, water (1 mL) and ethyl acetate (1 mL) were added. The organic fraction of the reaction mixture was placed on an SCX column. This was then washed with dichloromethane/methanol. The desired product was obtained by eluting with 2M ammonia in methanol. Fractions containing the compound were combined and the product purified further using preparative HPLC to yield 32 mg (26% yield) of the title compound as a white solid.

reactant | (RS)-4-(3-bromo-phenyl)-4-phenyl-4,5-dihydro-oxazol-2-ylamine | 0.315 mmol, 100 mg | BrC=1C=C(C=CC1)C1(N=C(OC1)N)C1=CC=CC=C1 | C15H13BrN2O
reactant | sodium tert-butoxide | 0.63 mmol, 61 mg | CC(C)([O-])C.[Na+]
reactant | 2-di-t-butylphosphino-2′,4′,6′-tri-1-propyl-1,1′biphenyl | 0.028 mmol, 12 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1CCC)CCC)CCC)C(C)(C)C | C29H45P
reactant | 3,4-(methylendioxy)-aniline | 0.631 mmol, 86 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.008 mmol, 7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (RS)-4-[3-(1,3-Benzodioxol-5-ylamino)-phenyl]-4-phenyl-4,5-dihydro-oxazol-2-ylamine | O1COC2=C1C=CC(=C2)NC=2C=C(C=CC2)C2(N=C(OC2)N)C2=CC=CC=C2 | C22H19N3O3
